US07338959B2
N5-[2-(4-Methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-N2-(4-methoxy-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine hydrochloride
The title compound was prepared following the procedure of example two with N5-(2-chloro-pyrimidin-4-yl)-N2-(4-methoxy-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (82 mg, 0.20 mmol) and 4-[(methylsulfonyl)methyl]aniline (37 mg, 0.20 mmol) as a white solid (86 mg, 72%). 1H NMR (300 MHz, d6-DMSO) δ 9.21 (s, 1H), 7.76-7.81 (m, 3H), 7.29-7.34 (m, 3H), 7.21-7.25 (m, 3H), 7.09 (d, J=1.8 Hz, 1H), 6.82-6.90 (M, 3H), 5.64 (d, J=6.0 Hz, 1H), 4.52 (d, J=5.7 Hz, 2H), 4.35 (s, 2H), 3.72 (s, 3H), 3.56 (s, 3H), 3.43 (s, 3H), 2.85 (s, 3H). MS (ESI) m/z=558 [M+H]+.

reactant | N5-(2-chloro-pyrimidin-4-yl)-N2-(4-methoxy-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.20 mmol, 82 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCC2=CC=C(C=C2)OC)C)C=C1)C | C21H21ClN6O
reactant | 4-[(methylsulfonyl)methyl]aniline | 0.20 mmol, 37 mg | CS(=O)(=O)CC1=CC=C(N)C=C1 | C8H11NO2S
product | N5-[2-(4-Methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-N2-(4-methoxy-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine hydrochloride | Cl.CS(=O)(=O)CC1=CC=C(C=C1)NC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCC2=CC=C(C=C2)OC)C)C=C1)C | InChI=1S/C29H31N7O3S.ClH/c1-35(27-15-16-30-28(34-27)32-22-9-5-21(6-10-22)19-40(4,37)38)23-11-14-26-25(17-23)33-29(36(26)2)31-18-20-7-12-24(39-3)13-8-20;/h5-17H,18-19H2,1-4H3,(H,31,33)(H,30,32,34);1H
